US05763439
Into 150 ml of an absolute methanol solution of 10.8 g of 4-amino-2-tert-butyl-5-nitropyridazin-3-(2H)-one, 1.1 g of palladium-carbon (containing 5% of Pd) was added in a few times with stirring at room temperature. Then, catalytic reduction was carried out overnight under hydrogen gas pressure. After completion of the reaction, palladium-carbon was separated with celite and washed a few times with absolute methanol. Then, methanol was combined with the filtrate, and the mixture was distilled under reduced pressure to obtain 9.3 g of powdery 4,5-diamino-2-tert-butylpyridazin-3-(2H)-one.

reactant | 4-amino-2-tert-butyl-5-nitropyridazin-3-(2H)-one | 10.8 g | NC=1C(N(N=CC1[N+](=O)[O-])C(C)(C)C)=O | C8H12N4O3
catalyst | palladium-carbon | 1.1 g | [C].[Pd]
solvent | methanol | 150 ml | CO | CH4O
product | 4,5-diamino-2-tert-butylpyridazin-3-(2H)-one | 9.3 g | NC=1C(N(N=CC1N)C(C)(C)C)=O | C8H14N4O
